US07566803B2
A. Methyl 4-(1-{4-[2-(tert-Butyldimethylsilanyloxy)-3,3-dimethyl-butoxy]-3-methylphenyl}-1-ethylpropyl)-2-methyl-benzoate
To a solution of the methyl 4-(1-{4-[2-(hydroxy)-3,3-dimethyl-butoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylbenzoate (4.79 g, 11.24 mmol), Example 1, in DMF (40 mL) is added imidazole (1.14 g, 16.87 mmol) followed by the addition of TBSCl (1.78 g, 11.80 mmol). The mixture is stirred at RT overnight and concentrated. The mixture is partitioned between 0.1 M HCl (100 mL) and EtOAc (100 mL). The aqueous layer is extracted with EtOAC. The combined organic layers is MgSO4 dried, concentrated, and chromatographed (10% EtOAc/Hex) to give the title compound (4.37 g, 72%).

reactant | methyl 4-(1-{4-[2-(hydroxy)-3,3-dimethyl-butoxy]-3-methylphenyl}-1-ethylpropyl)-2-methylbenzoate | 11.24 mmol, 4.79 g | OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C(=O)OC)C=C1)C)C)C(C)(C)C | C27H38O4
reactant | imidazole | 16.87 mmol, 1.14 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 11.80 mmol, 1.78 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | Methyl 4-(1-{4-[2-(tert-Butyldimethylsilanyloxy)-3,3-dimethyl-butoxy]-3-methylphenyl}-1-ethylpropyl)-2-methyl-benzoate | 4.37 g, 72% | [Si](C)(C)(C(C)(C)C)OC(COC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(C(=O)OC)C=C1)C)C)C(C)(C)C | C33H52O4Si
